US08293897B2
N-(5-(7-(3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propoxy)-6-methoxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide
To a solution of N-(5-(7-hydroxy-6-methoxyquinolin-4-yloxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide (200 mg, 0.402 mmol) in DMA (4 mL) was added 3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propyl methanesulfonate (150 mg, 0.603 mmol) and Cs2CO3 (261 mg, 0.804 mmol). The reaction was then stirred at rt for 24 hrs. The solvent was removed and the residue was partioned between saturated NaHCO3 aqueous solution (5 mL) and CHCl3 (25 mL). The organic layer was separated, dried over anhydrous Na2SO4, filtered and the filtrate was concentrated in vacuo. The residue was purified by a silica gel column chromatography (100:15:1 (v/v/v)EtOAc/CH3OH/Et3N) to afford the desired compound as a pale yellow solid (165 mg, 63%).

reactant | N-(5-(7-hydroxy-6-methoxyquinolin-4-yloxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 0.402 mmol, 200 mg | OC1=C(C=C2C(=CC=NC2=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O)OC | C27H23N5O5
reactant | 3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propyl methanesulfonate | 0.603 mmol, 150 mg | CS(=O)(=O)OCCCN1CC2(CC2)C(C1)O | C10H19NO4S
reactant | Cs2CO3 | 0.804 mmol, 261 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | N-(5-(7-(3-(7-hydroxy-5-azaspiro[2.4]heptane-5-yl)propoxy)-6-methoxyquinolin-4-yloxy)pyridin-2-yl)-2,3-dihydro-1,5-dimethyl-3-oxo-2-phenyl-1H-pyrazole-4-carboxamide | 165 mg, 63% | OC1CN(CC12CC2)CCCOC2=C(C=C1C(=CC=NC1=C2)OC=2C=CC(=NC2)NC(=O)C=2C(N(N(C2C)C)C2=CC=CC=C2)=O)OC | C36H38N6O6
